US08871943B2
Isopropyl 4,5,6-trifluoropicolinate (17.52 g, 80 mmol) was dissolved in NMP (175 g) in a 500 mL flask equipped with a stirring bar. The mixture was blanketed with nitrogen and then ammonium hydroxide (10.70 g 176 mmol, 28% in water) was added to the flask dropwise at room temperature, and the reaction was stirred overnight. To the reaction was added water (190 mL) and the resulting slurry was cooled in an ice bath and stirred for 5 hours. The solid was collected by filtration and the cake washed with water. Vacuum drying provided the isopropyl 4-amino-5,6-difluoropicolinate as an off-white solid (11.7 g, 68% yield, 96% HPLC purity): mp 167-168° C.; 1H NMR (THF-d8, 300 MHz) δ 7.25 (d, 1H, J=6 Hz), 6.07 (s, 2H), 5.01 (m, 1H, J=6 Hz), 1.20 (d, 6H, J=6.3 Hz); 13C NMR (THF-d8, 75 MHz, 1H decoupled) δ 162.9 (s), 151.5 (dd, J=228 Hz, 12 Hz), 146.1 (dd, J=9 Hz, 6 Hz), 140.4 (dd, J=17 Hz, 5 Hz), 134.5 (dd, J=251 Hz, 32 Hz), 111.9 (m), 68.4 (s), 21.0 (s).

reactant | Isopropyl 4,5,6-trifluoropicolinate | 80 mmol, 17.52 g | FC1=CC(=NC(=C1F)F)C(=O)OC(C)C | C9H8F3NO2
reactant | ammonium hydroxide | 176 mmol, 10.70 g | [OH-].[NH4+]
reactant | water | 190 mL | O | H2O
solvent | NMP | 175 g | CN1CCCC1=O | C5H9NO
product | isopropyl 4-amino-5,6-difluoropicolinate | 68% yield | NC1=CC(=NC(=C1F)F)C(=O)OC(C)C | C9H10F2N2O2
